US06620829B2
(R)-2,6-Dimethyl-non-2-ene 98
To (S)-citronellyl bromide (50 g, 0.228 mol) in THF (800 mL) at 0° C. was added LiCl (4.3 g) followed by CuCl2 (6.8 g). After 30 minutes methylmagnesium chloride (152 mL of a 3 M solution in THF, Aldrich) was added and the solution warmed to room temperature. After 10 hours the solution was cooled to 0° C. and a saturated aqueous solution of ammonium chloride carefully added. The resultant two layers were separated and the aqueous phase extracted with ether. The combined organic phases were dried (MgSO4) and concentrated to give an oil. 32.6 g; 93%. Used without further purification. 13C NMR (100 MHz; CDCl3) 131.13, 125.28, 39.50, 37.35, 32.35, 25.92, 25.77, 20.31, 19.74, 17.81, 14.60.

reactant | (S)-citronellyl bromide | 0.228 mol, 50 g | C(C[C@@H](C)CCC=C(C)C)Br | C10H19Br
reactant | LiCl | 4.3 g | [Li+].[Cl-]
reactant | methylmagnesium chloride | C[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 800 mL | C1CCOC1 | C4H8O
product | (R)-2,6-Dimethyl-non-2-ene | CC(C)=CCC[C@@H](CCC)C | C11H22
